** sch_path: /home/student/ee5311/tutorial_1/q3a.sch
**.subckt q3a
XM1 Vin net1 Vout GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
C1 Vout 0 100f
Vstep Vin 0 PULSE(0 1.8 1n 10p 10p)
Vdd1 net1 0 1.8
**** begin user architecture code

.control
  tran 1n 120n
  plot v(Vin) v(Vout)
  meas tran vout_20ns FIND v(Vout) AT=20n
  meas tran vout_100ns FIND v(Vout) AT=100n
.endc

.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends
.end
